US07094801B2
2-{5-[3-(4-Carboxy-phenyl)-3-oxo-E-propenyl]-2,4-dimethoxy-phenyl}-pyrrole-1-carboxylic acid tert-butyl ester
The title compound was prepared by condensing 2-(5-formyl-2,4-dimethoxy-phenyl)-pyrrole-1-carboxylic acid tert-butyl ester (Ex-57A) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Yellow solid, mp 205–207° C., 6% yield. 1H-NMR (DMSO-d6) δ 8.19 (d, J=5 Hz, 2H), 8.00–8.10 (m, 3H), 7.87 (s, 1H), 7.80 (d, J=16 Hz, 1H), 7.27–7.28 (m, 1H), 6.71 (s, 1H), 6.22–6.23 (m, 1H), 6.14–6.16 (m, 1H), 3.96 (s, 3H), 3.79 (s, 3H), 1.29 (s, 9H). MS m/z=476 ([M−H]+). HMRS (EI) calcd. for C27H27NO7: 477.1788; found: 477.1793.

reactant | 2-(5-formyl-2,4-dimethoxy-phenyl)-pyrrole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC=C1)C1=C(C=C(C(=C1)C=O)OC)OC | C18H21NO5
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 2-{5-[3-(4-Carboxy-phenyl)-3-oxo-E-propenyl]-2,4-dimethoxy-phenyl}-pyrrole-1-carboxylic acid tert-butyl ester | 6% yield | C(C)(C)(C)OC(=O)N1C(=CC=C1)C1=C(C=C(C(=C1)\C=C\C(=O)C1=CC=C(C=C1)C(=O)O)OC)OC | C27H27NO7
